US05561150
A solution of 1.42 g (8.0 mmol) of 6-fluoro-2-hydroxy-methylene-1-indanone, 0.87 g (9.65 mmol) of (RS)-1-hydrazino-2-propanol and 100 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator for 1.5 hours. After concentration in a vacuum, the reaction mixture was purified by column chromatography on silica gel (ethyl acetate). 1.5 g (81%) of (RS)-1-(7-fluoro-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol were obtained as a yellow solid which was used directly in the next reaction.

reactant | 6-fluoro-2-hydroxy-methylene-1-indanone | 8.0 mmol, 1.42 g | FC1=CC=C2C(C(C(C2=C1)=O)O)=C | C10H7FO2
reactant | (RS)-1-hydrazino-2-propanol | 9.65 mmol, 0.87 g | N(N)CC(C)O | C3H10N2O
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(7-fluoro-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol | 1.5 g, 81% | FC1=C2C=C3N(N=CC3=C2CC=C1)CC(C)O | C13H13FN2O
